US08895596B2
Step C Ethyl 4-{[5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
To a solution of ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylate (0.080 g, 0.124 mmol) and Pd(OH)2 (0.023 g, 0.032 mmol) in 1.65 mL of EtOAc and 0.83 mL of EtOH was added 1,4-cyclohexadiene (0.300 mL, 3.19 mmol). The resulting black suspension was microwaved at 130° C. for 2 h, then filtered through a Celite™ pad, and washed with 100% EtOAc. The resulting filtrate was concentrated in vacuo. Purification of the resulting crude residue by preparative TLC (40% EtOAc/hexanes) afforded the title compound. LCMS: calculated for C27H27F2N3O3 479.52, observed m/e 480.1 (M+11)+ (Rt 2.58/4 min).

reactant | ethyl 4-{[1-(biphenyl-4-ylmethyl)-5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexane-carboxylate | 0.124 mmol, 0.080 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)C=2C=C1C=CN(C1=CC2)C2CC2)F)OC2CCC(CC2)C(=O)OCC)C2=CC=CC=C2 | C40H37F2N3O3
reactant | 1,4-cyclohexadiene | 3.19 mmol, 0.300 mL | C1=CCC=CC1 | C6H8
solvent | EtOAc | 1.65 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 0.83 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 0.032 mmol, 0.023 g | [OH-].[OH-].[Pd+2]
product | Ethyl 4-{[5-(1-cyclopropyl-1H-indol-5-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(CC1)N1C=CC2=CC(=CC=C12)C1=C(C2=C(NC(=N2)OC2CCC(CC2)C(=O)OCC)C=C1F)F | C27H27F2N3O3
